US05096928
110 g of 2,3,4,6-tetrafluorobenzotrifluoride in 200 ml of tetrahydrofuran are initially introduced into a stainless steel autoclave of capacity 0.7 1, and 30 ml of liquid ammonia are injected. The batch is then heated at 100° C. for 3 hours (maximum pressure: 10 bar). After cooling, the pressure is released and the liquid phase is subjected to fractional distillation. First, at a boiling point of 47° C.-48° C./8 mbar, 42 g of 2,3,5-trifluoro-6-trifluoromethylaniline are obtained, and then, following an intermediate fraction and at a boiling point of 75° C.-78° C./ 8 mbar, 46 g of 2,3,5-trifluoro-4-trifluoromethylaniline.

reactant | 2,3,4,6-tetrafluorobenzotrifluoride | 110 g | FC1=C(C(=CC(=C1F)F)F)C(F)(F)F | C7HF7
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,3,5-trifluoro-6-trifluoromethylaniline | 42 g | FC1=C(N)C(=C(C=C1F)F)C(F)(F)F | C7H3F6N
